US07754742B2
4-[(tert-Butoxycarbonyl-methyl-amino)-methyl]-3-methyl-benzoic acid methyl ester
Add in portions of 60% sodium hydride dispersion in oil (472 mg, 11.81 mmol) to 4-(tert-butoxycarbonylamino-methyl)-3-methyl-benzoic acid methyl ester (3.0 g, 10.74 mmol) in anhydrous dimethylformamide (50 mL) at 0° C. under argon gas. After complete addition, stir the reaction mixture for 15 min at 0° C. Add methyl iodide (735 μL, 11.8 mmol) to the reaction mixture. Allow the reaction mixture to warm-up to room temperature and stir overnight. Quench the reaction mixture with saturated aqueous ammonium chloride and extract with ethyl acetate (3×). Combine the organic layers, wash with brine, dry over sodium sulfate, and concentrate. Purify the residue by chromatography (silica gel) eluting with 25% ethyl acetate/hexane to give the title compound. MS (m/z): 316 (M+23).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-(tert-butoxycarbonylamino-methyl)-3-methyl-benzoic acid methyl ester | 10.74 mmol, 3.0 g | COC(C1=CC(=C(C=C1)CNC(=O)OC(C)(C)C)C)=O | C15H21NO4
reactant | methyl iodide | 11.8 mmol, 735 μL | CI | CH3I
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-[(tert-Butoxycarbonyl-methyl-amino)-methyl]-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CN(C)C(=O)OC(C)(C)C)C)=O | C16H23NO4
